US07132426B2
Preparation of 4-[1-(4-Methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid 2,2-dimethyl-propyl ester (Compound A124)
1-(4-Methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride (0.17 mmol, 70 mg), neopentyl chloroformate (0.25 mmol, 37 μL) and triethylamine (0.51 mmol, 72 μL) were dissolved in DMF (2 mL) and stirred for 60 minutes at room temperature. Progress of the reaction was monitored by TLC and LCMS. The reaction mixture was quenched with water. The product was extracted with ethyl acetate. Removal of organic solvents in vacuo and purification by HPLC provided Compound A124 as a white solid (28 mg, 27%). Exact mass calculated for C23H29N5O5S 487.57, found 488.20 (MH+).

reactant | 1-(4-Methanesulfonyl-phenyl)-4-(piperidin-4-yloxy)-1H-pyrazolo[3,4-d]pyrimidine hydrochloride | 0.17 mmol, 70 mg | Cl.CS(=O)(=O)C1=CC=C(C=C1)N1N=CC=2C1=NC=NC2OC2CCNCC2
reactant | neopentyl chloroformate | 0.25 mmol, 37 μL | ClC(=O)OCC(C)(C)C | C6H11ClO2
reactant | triethylamine | 0.51 mmol, 72 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[1-(4-Methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid 2,2-dimethyl-propyl ester | 28 mg, 27% | CC(COC(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=CC=C(C=C2)S(=O)(=O)C)(C)C | C23H29N5O5S
